US04929613
7-[3-(Acetylamino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, ethyl ester.
A solution of 21.0 g (50 mmol) of 4-[3-(acetylamino) cyclopentyl]-α-[(cyclopropylamino)methylene]-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester in 250 ml of dry t-butanol was treated with a slurry of 6.2 g (55 mmol) of potassium t-butoxide in 50 ml of dry t-butanol. The resulting suspension was stirred and heated at 65° for 3 hours and then at room temperature overnight. The solvent was removed in vacuo and the residue was dissolved in methylene chloride and washed with 1.0 M hydrochloric acid. After drying (MgSO4) and evaporating the solvent in vacuo, the residue was recrystallized from ethyl acetate/hexane to give 16.5 g of the title compound.

reactant | 4-[3-(acetylamino) cyclopentyl]-α-[(cyclopropylamino)methylene]-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 50 mmol, 21.0 g | C(C)(=O)NC1CC(CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=CNC1CC1)=O)F | C22H26F2N2O4
reactant | potassium t-butoxide | 55 mmol, 6.2 g | CC(C)([O-])C.[K+]
solvent | t-butanol | 250 ml | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | 7-[3-(Acetylamino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, ethyl ester | 16.5 g | C(C)(=O)NC1CC(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)OCC)=O)F | C22H25FN2O4
